Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / aspirin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
___ with PMH HTN, Anxiety and GERD presented to ED on ___
with chest pain. She reportedly has a history of chest pain for
at least ___ years. Nuclear stress test in ___ demonstrated
possible mild reversible perfusion defect in the inferior 
aspect,
her at___ cardiologist recommended a trial of medical therapy 
at
that time. She has had repeat episodes of chest pain and
underwent exercise stress echo on ___, which was nondiagostic
due to inability to reach target heart rate.  
 The pt describes chest pain going since last night. The 
pressure
is intermittent, substernal, pressure-like, and radiates to her
right jaw. Denies fevers, SOB, n/v, diarrhea, or other
localization symptoms.
 
Past Medical History:
Hypertension, Hyperlipidemia, Anxiety, GERD  
 
Social History:
___
Family History:
No known FH of cardiac disease or sudden cardiac death. 
 
Physical Exam:
Physical Examination on Admission:
VS: Temp: 98.4 PO BP: 153/83 L Lying HR: 57 RR: 19 O2 sat: 99% 
O2
delivery: Ra 
General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm 
Respiratory: Lungs clear bilaterally, breathing non-labored
Abdomen: Soft, Non-tender, +BS 
Extremities: BLE warm, ___ pulses, no ___ edema 
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 

Physical Exam at Discharge:
VS: T 98.1 BP 130/77 HR 59 RR 18 SpO2 95% RA
Gen: Patient is in no acute distress.
HEENT: Face symmetrical, trachea midline.
Neuro: A/Ox3. Speaking in complete, coherent sentences. No face,
arm, or leg weakness. 
Pulm: Breathing unlabored. Breath sounds clear bilaterally. 
Cardiac: No JVD. No thrills or bruits heard on carotids
bilaterally. S1, S2 RRR. No splitting of heart sounds, murmurs,
S3, S4 or friction rubs heard. 
Vasc: No edema noted in bilateral upper or lower extremities. No
pigmentation changes noted in bilateral upper or lower
extremities. Skin dry, warm. Bilateral radial, ___ pulses
palpable 2+.
Access: Right radial access site soft, non-tender with no 
swelling, drainage or hematoma noted. +Radial pulse. Right 
femoral access site soft, non-tender with no swelling, drainage 
or hematoma noted. No bruit auscultated.
Abd: Rounded, soft, non-tender.
 
Pertinent Results:
Admission Labs:
___ 03:31PM BLOOD WBC-6.6 RBC-4.90 Hgb-14.6 Hct-44.9 MCV-92 
MCH-29.8 MCHC-32.5 RDW-13.1 RDWSD-44.1 Plt ___
___ 03:31PM BLOOD Neuts-53.8 ___ Monos-9.0 Eos-2.3 
Baso-0.9 Im ___ AbsNeut-3.53 AbsLymp-2.21 AbsMono-0.59 
AbsEos-0.15 AbsBaso-0.06
___ 03:31PM BLOOD ___ PTT-31.2 ___
___ 03:31PM BLOOD Glucose-94 UreaN-9 Creat-0.6 Na-137 
K-6.2* Cl-102 HCO3-23 AnGap-12
___ 03:31PM BLOOD ALT-11 AST-34 AlkPhos-77 TotBili-0.5
___ 03:31PM BLOOD cTropnT-<0.01

Discharge Labs:
___ 06:55AM BLOOD WBC-5.6 RBC-4.29 Hgb-12.7 Hct-38.4 MCV-90 
MCH-29.6 MCHC-33.1 RDW-12.8 RDWSD-42.0 Plt ___
___ 01:20PM BLOOD Hgb-13.0 Hct-39.5
___ 06:55AM BLOOD Glucose-69* UreaN-11 Creat-0.7 Na-140 
K-3.7 Cl-103 HCO3-24 AnGap-13
___ 06:55AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:55AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.0

Cath Report ___:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel and is normal. This vessel bifurcates into the 
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 70% hazy stenosis in 
the mid segment immediately distal to orogin of D1. The 
Diagonal, arising from the proximal segment, is a medium caliber 
vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a large caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a small caliber 
vessel. There is a 50% stenosis in the proximal segment.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 20% stenosis in the proximal 
segment. The Right Posterior Descending Artery, arising from the 
distal segment, is a medium caliber vessel. The Right 
Posterolateral Artery, arising from the distal segment, is a 
medium caliber vessel.
Intervention:
OCT showed high-grade stenosis in mid LAD (MLA 1.9 mm2) and also 
a focal area of dissection in the proximal part of the lesion.
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 6 ___ EBU3.5 guide advanced from femoral 
artery provided adequate support. Stenosis predilated with a 2.5 
mm balloon and then deployed a 3.0 mm x 20 mm Promus Elite DES. 
Postdilated with a 3.25 mm NC balloon. Final angiography 
revealed normal flow, no dissection and 0% residual stenosis. 
Repeat ___ performed showed excellent stent expansion and wall 
apposition.
Complications: There were no clinically significant 
complications.
Findings
• Two vessel coronary artery disease.
• Successful PCI with drug-eluting stent of the LAD coronary 
artery.
Recommendations
• ASA 81mg per day indefinitely.
• Plavix 75mg/day for minimum 12 months
• Secondary prevention of CAD and further management as per 
primary cardiology team.

 
Brief Hospital Course:
Ms. ___ is a ___ admitted with chest pressure concerning 
for unstable angina on ___. She underwent coronary angiogram 
___ which showed high grade stenosis (70%) in LAD, 50% proximal 
OM2, 20% proximal RCA. 

 # Coronary artery disease s/p PCI of LAD with DES x1. Troponins 
negative. Post-operatively, she became nauseous and vomited 
blood-tinged emesis x1. V-Scan was negative for tamponade. Her 
access sites remained stable. During this time she had pauses on 
tele up to 5 seconds, BP stable, likely vasovagal. H/H and labs 
remained stable. Symptoms improved overnight and she denied any 
further nausea, vomiting after gradual advancement of diet. GI 
was consulted and recommended PPI daily, consider EGD as 
outpatient pending cardiac recovery in future for GERD. 
 - Continue Asa
 - Start Plavix
 - Stop Pravastatin, start Atorvastatin
 - Hold Atenolol due to pauses. Consider restarting as 
outpatient as HR/BP allows. 

 # Hypertension: Clinically stable
 - Continue Amlodipine 
 - Atenolol on hold due to pauses as above

 # Hyperlipidemia: FLP unknown
 - Stop Pravastatin, start high dose Atorvastatin

 # Anxiety: Pt declines medication for anxiety while in hospital

 # DISPO: Home today without services. Follow up with Dr. 
___ in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  Pantoprazole 20 mg PO Q24H  
5.  amLODIPine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary Artery Disease
Angina

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

VS: T 98.1 BP 130/77 HR 59 RR 18 SpO2 95% RA
PE:
Gen: Patient is in no acute distress.
HEENT: Face symmetrical, trachea midline.
Neuro: A/Ox3. Speaking in complete, coherent sentences. No face,
arm, or leg weakness. 
Pulm: Breathing unlabored. Breath sounds clear bilaterally. 
Cardiac: No JVD. No thrills or bruits heard on carotids
bilaterally. S1, S2 RRR. No splitting of heart sounds, murmurs,
S3, S4 or friction rubs heard. 
Vasc: No edema noted in bilateral upper or lower extremities. No
pigmentation changes noted in bilateral upper or lower
extremities. Skin dry, warm. Bilateral radial, ___ pulses
palpable 2+.
Access: Right radial access site soft, non-tender with no 
swelling, drainage or hematoma noted. +Radial pulse. Right 
femoral access site soft, non-tender with no swelling, drainage 
or hematoma noted. No bruit auscultated.
Abd: Rounded, soft, non-tender.

 
Discharge Instructions:
Dear Ms. ___, 

 It was a pleasure taking care of you at the ___ 
___! 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 You were evaluated for chest pain (angina).

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
 You had a coronary angiogram which showed a blockage in your 
left anterior descending (LAD) artery. A drug coated stent was 
placed to reopen the blockage to restore or improve blood flow 
to the heart.

 After your procedure you felt nauseous and vomited. You had a 
scan of your heart that did not show any evidence of bleeding in 
your heart. Your wrist and groin access sites were stable. At 
this time your heart rate was slow. This was a vasovagal 
reaction (or nerve trigger) to your nausea and vomiting. We 
stopped your atenolol because it can further slow your heart 
rate. 

 Because there was a small amount of blood when you vomited, the 
gastroenterology (GI) doctors saw ___. They recommended starting 
a medication called Pantoprazole for GERD. They recommend 
considering an EGD in the future once you are recovered from a 
cardiac perspective. We watched your blood counts which were 
stable, and your symptoms improved. 

 Instructions regarding care of the right wrist and right groin 
access site are included with your discharge information.  

 Please continue your current medications with the following 
changes:  
- Start Aspirin 81mg daily, lifelong.  
- Start Plavix 75mg daily, you should take this for a minimum of 
one year and ONLY stop when told by a cardiologist specifically. 
 
- Stop Pravastatin and start Atorvastatin 80mg daily. This 
medication is more effective at lowering cholesterol. 
- Start Pantoprazole 20mg daily. This is recommended by the GI 
doctors to help with your GERD. 
- Hold Atenolol for now because you had a slower heart rate 
after the procedure. When you follow up with Dr. ___ if 
it is ok for you to resume this medication.
 
 It is very important to take all of your heart healthy 
medications. In particular, Aspirin and Clopidogrel (Plavix) 
keep the stents in the vessels of the heart open and help reduce 
your risk of having a future heart attack. If you stop these 
medications or miss ___ dose, a blood clot could form in your 
heart stent which could cause a life threatening heart attack. 
Please do not stop taking either medication without taking to 
your heart doctor, even if another doctor tells you to stop the 
medications. 
 
 It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program.  

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call ___ 
Cardiology at ___ or your primary care doctor's office. 
 

 It has been a pleasure to have participated in your care and we 
wish you the best with your health. 
 
-Your ___ Cardiac Care Team  
 
Followup Instructions:
___